US07507729B2
a) (2-Oxo-3-trifluoromethyl-2H-pyridin-1-yl)-acetic acid ethyl ester
As described in example 322a, reaction of 2-hydroxy-3-(trifluoromethyl)-pyridine with ethyl bromoacetate and potassium carbonate gave 2 products. The title compound was eluted second and was obtained as a colorless liquid (yield: 84%). MS: m/e=250.1[M+H]+.

reactant | 2-hydroxy-3-(trifluoromethyl)-pyridine | OC1=NC=CC=C1C(F)(F)F | C6H4F3NO
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | (2-Oxo-3-trifluoromethyl-2H-pyridin-1-yl)-acetic acid ethyl ester | yield: 84% | C(C)OC(CN1C(C(=CC=C1)C(F)(F)F)=O)=O | C10H10F3NO3
